US05128356
Ethyl 2-isopropyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
A mixture of ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-isopropylbenzimidazole-7-carboxylate (2.12 g), sodium azide (3.9 g) and ammonium chloride (3.2 g) in DMF (15 ml) was stirred for 5 days at 110°-120 C. To the reaction mixture was added water (150 ml), which was made acidic (pH 3-4) with dilute hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with water, dried and concentrated to dryness. The concentrate was crystallized from ethanol to afford colorless prisms (1.2 g, 52%), m.p. 144°-146° C.

reactant | ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-isopropylbenzimidazole-7-carboxylate | 2.12 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)C(C)C | C27H25N3O2
reactant | sodium azide | 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.2 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | Ethyl 2-isopropyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 1.2 g, 52% | C(C)(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O2
